US08859774B2
Lithium hexamethyldisilazide (12.93 ml, 12.93 mmol) was added to diethyl ether (20 mL) at −78° C. (R)-2-tert-butyl 8a-methyl 6-oxo-3,4,6,7,8,8a-hexahydroisoquinoline-2,8a(1H)-dicarboxylate (WO2005087769) (1.0 g, 3.23 mmol) in ether (5 mL) was added followed by the addition of 2,2,2-trifluoroethyl formate (2.51 ml, 25.9 mmol) after 20 minutes. The reaction was stirred at −78° C. for 2 hours then allowed to slowly warm to room temperature. 1M hydrochloric acid (8 mL) was added, followed by water (10 mL) and ethyl acetate (10 mL). The organic phase was separated, washed with brine, dried (magnesium sulfate) and solvent removed to give (R,Z)-2-tert-butyl 8a-methyl 7-(hydroxymethylene)-6-oxo-3,4,6,7,8,8a-hexahydroisoquinoline-2,8a(1H)-dicarboxylate (1.09 g) as a yellow oil. LCMS (Method F, ES-API): RT 1.99 min, m−H=336.

reactant | Lithium hexamethyldisilazide | 12.93 mmol, 12.93 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | (R)-2-tert-butyl 8a-methyl 6-oxo-3,4,6,7,8,8a-hexahydroisoquinoline-2,8a(1H)-dicarboxylate | 3.23 mmol, 1.0 g | O=C1C=C2CCN(C[C@]2(CC1)C(=O)OC)C(=O)OC(C)(C)C | C16H23NO5
reactant | 2,2,2-trifluoroethyl formate | 25.9 mmol, 2.51 ml | C(=O)OCC(F)(F)F | C3H3F3O2
reactant | hydrochloric acid | 1M, 8 mL | Cl | ClH
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | (R,Z)-2-tert-butyl 8a-methyl 7-(hydroxymethylene)-6-oxo-3,4,6,7,8,8a-hexahydroisoquinoline-2,8a(1H)-dicarboxylate | 1.09 g | O\C=C\1/C(C=C2CCN(C[C@]2(C1)C(=O)OC)C(=O)OC(C)(C)C)=O | C17H23NO6
